US07153851B2
Sodium hydroxide (2.70 g) was dissolved in water (25 mL) and dioxane (15 mL) was added. To this solution, (3R,4R)-(4-hydroxypyrrolidin-3-yl)methanol (1.00 g) was dissolved. While the solution was cooled on an ice bath, carbobenzoxy chloride (0.97 mL) was added dropwise. The mixture was stirred at 5° C. or below for 1 hour, followed by dropwise addition of carbobenzoxy chloride (0.97 mL). The mixture was further stirred at 5° C. or below for additional 1 hour and carbobenzoxy chloride (0.97 mL) was subsequently added dropwise. This was followed by stirring for 1 hour at 5° C. or below and another 1 hour at room temperature. Subsequently, the reaction mixture was extracted with dichloromethane (2×100 mL). The dichloromethane extracts were combined, and the combined dichloromethane layer was dried over anhydrous sodium sulfate and was concentrated under reduced pressure. The resulting residue was purified on a silica gel column (eluant=hexane:ethyl acetate=1:1 shifted to ethyl acetate: methanol=20:1) to give 1.18 g of (3R,4R)-[1-benzyloxycarbonyl-4-hydroxypyrrolidin-3-yl]methanol as a milky white tar-like product.

reactant | Sodium hydroxide | 2.70 g | [OH-].[Na+]
reactant | dioxane | 15 mL | O1CCOCC1 | C4H8O2
reactant | (3R,4R)-(4-hydroxypyrrolidin-3-yl)methanol | 1.00 g | O[C@@H]1[C@H](CNC1)CO | C5H11NO2
reactant | carbobenzoxy chloride | 0.97 mL | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
reactant | carbobenzoxy chloride | 0.97 mL | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
reactant | carbobenzoxy chloride | 0.97 mL | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
solvent | water | 25 mL | O | H2O
product | (3R,4R)-[1-benzyloxycarbonyl-4-hydroxypyrrolidin-3-yl]methanol | 1.18 g | C(C1=CC=CC=C1)OC(=O)N1C[C@@H]([C@H](C1)O)CO | C13H17NO4
